*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_GR04_OSC_v2_lpe.spi
* Include also BG
* .include ../../../work/lpe/LELO_GR04_BG_lpe.spi
#else
.include ../../../work/xsch/LELO_GR04_OSC_v2.spice
* Include also BG
.include ../../../work/xsch/LELO_GR04_BG.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  pwl 0 0 10n {AVDD}

VPWR  PWRUP_1V8  VSS  pwl 0 0 {t_start} 0 {{t_start}+1n} {AVDD} {t_end_meas} {AVDD} {{t_end_meas}+1n} 0
VPWRN  PWRUP_N_1V8  VSS  pwl 0 {AVDD} {t_start} {AVDD} {{t_start}+1n} 0 {t_end_meas} 0 {{t_end_meas}+1n} {AVDD}

* Bandgap element, from ../LELO_GR04_BG/xdut.spi
XBG VDD_1V8 LPO LPI VX PWRUP_N_1V8 IBP_1F7U<3> IBP_1F7U<2> IBP_1F7U<1> IBP_1F7U<0> PWRUP_1V8 VSS  LELO_GR04_BG
VLP LPI LPO dc 0
VXC VX VC dc 0

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
#ifdef Debug
.save all
.option savecurrents=all
#endif

.save v(VOSC)
.save i(VDD)
.save v(xdut.cmpo)
.save v(IBP_1F7U<0>)

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

optran 0 0 0 1n 1u 0


* tran 1n {t_end}
set fend = .raw
foreach vtemp {temperatures}
  option temp=$vtemp
  tran 1n {t_end}
  write {cicname}_$vtemp$fend
end
write
quit


.endc

.end
